data/rdb19/train.csv
rxn,smiles,ea
4812,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]([H:6])[H:7])([H:8])([H:9])[H:10].[H:11][C:22]1([H:36])[C:21]([H:35])[C:20]([H:34])=[C:19]([C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])[C:24]([H:38])=[C:23]1[H:37],38.405787683150265
392,[C:4](=[C:5]([N:6]([C:7](=[O:8])[H:13])[H:12])[H:11])([H:9])[H:10].[O:1]([O:2])[H:3]>>[C:4](=[C:5]([N:6][C:7](=[O:8])[H:13])[H:11])([H:9])[H:10].[O:1]([O:2][H:12])[H:3],24.802658825967228
2205,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([H:23])[H:24])([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[C:22]([C:21]([H:25])([H:26])[H:27])([H:23])[H:24])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:18])([H:19])[H:20],66.01938541120035
3028,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][C:20]([C:18]([O:17][C:16]([H:23])([H:24])[H:25])([C:19]([H:27])([H:28])[H:29])[H:26])([H:21])[H:22],23.157832569093443
716,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:20]([C:19]([H:23])([H:24])[H:25])([H:21])[H:22])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],30.48074114116025
3030,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])[H:15])([H:13])[C:20]([C:18]([O:17][C:16]([H:23])([H:24])[H:25])([C:19]([H:27])([H:28])[H:29])[H:26])([H:21])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],15.111813778232316
20,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[O:16][C:15]([O:14][C:13]([C:12]([H:21])([H:22])[H:23])([H:24])[H:25])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:6])([H:7])[H:8],41.77590796659933
3110,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20])([H:8])([H:9])[H:10].[O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13],44.0961516587995
5100,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([C:3]([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:16])[C:27]([C:26]([C:25]([H:36])([H:37])[H:38])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:28])[H:29])([H:14])[H:15])([H:11])([H:12])[H:13].[C:4]([H:17])([H:18])[H:19],66.42835650203051
4563,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],59.89400793268578
1906,[C:11]([O:12][O:13])([H:14])([H:15])[H:16].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:9][O:13][O:12][C:11]([H:14])([H:15])[H:16].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],34.56405581225408
